US07384934B2
2-(5-Fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile
Heat a solution of 2-amino-5-isopropyl-benzonitrile (1.21 g, 7.55 mmol) with 2,4-difluoro-1-nitro-benzene (1.20 g, 7.55 mmol) and lithium hydroxide (0.54 g, 22.66 mmol) in DMSO (15 ml) to 70° C. for 18 hours. Cool the reaction to ambient temperature and then pour into approximately 200 ml of ice water and stir for one hour. The title compound precipitates and is colleted by filtration. Purify the solid via flash chromatography eluting with a 95% hexanes: 5% ethyl acetate mobile phase to obtain 0.372 g (1.24 mmol, 16% yield) of the title compound as an orange amorphous solid: Mass Spectrum (m/e): 298 (M−1).

reactant | 2-amino-5-isopropyl-benzonitrile | 7.55 mmol, 1.21 g | NC1=C(C#N)C=C(C=C1)C(C)C | C10H12N2
reactant | 2,4-difluoro-1-nitro-benzene | 7.55 mmol, 1.20 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | lithium hydroxide | 22.66 mmol, 0.54 g | [OH-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-(5-Fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile | 1.24 mmol, 0.372 g, 16% yield | FC=1C=CC(=C(C1)NC1=C(C#N)C=C(C=C1)C(C)C)[N+](=O)[O-] | C16H14FN3O2
